US06756388B1
4-(2-Chloro-ethoxy)benzoic acid.
To methyl 4-(2-Chloroethoxy)-benzoic acid (11.8 gm, 53.5 mmol) dissolved in 118 mL of methanol was added 2N KOH (35mL, 1.3 equiv.) and the resulting solution was heated at 50° C. for 24 hrs. The reaction was cooled to room temperature and the methanol evaporated off. The residue was diluted with water and extracted once with ethyl acetate. The aqueous layer was then acidified with 6N HCl and a precipitate formed which was filtered off, washed well with water, and pumped dry under vacuum to yield 10 gm of the title compound.

reactant | methyl 4-(2-Chloroethoxy)-benzoic acid | 53.5 mmol, 11.8 gm | CC1=C(C(=O)O)C=CC(=C1)OCCCl | C10H11ClO3
reactant | KOH | 2N, 35mL, 1.3 equiv. | [OH-].[K+]
solvent | methanol | 118 mL | CO | CH4O
product | 4-(2-Chloro-ethoxy)benzoic acid | 10 gm | ClCCOC1=CC=C(C(=O)O)C=C1 | C9H9ClO3
